US07507734B2
a) 2-(3-Methoxy-6-pyridin-4-yl-pyridazin-4-yl)-3-vinyl-1H-indole
A mixture of 430 mg 3-Iodo-2-(3-methoxy-6-pyridin-4-yl-pyridazin-4-yl)-1H-indole, 490 mg tributyl(vinyl)tin, 165 mg tetraethylammonium-chloride and 35 mg bis(triphenylphosphine)palladium(II) chloride in DMF is stirred at 80° C. for 40 min. After cooling to room temperature, 15 ml aqueous potassium fluoride solution (30%) are added, and the mixture is stirred for 30 min at room temperature before extraction with EtOAc. The organic layer is dried over MgSO4 and the solvent evaporated prior to purification of the crude product by preparative RP-HPLC eluting with a gradient of 0-100% acetonitrile in water (+0.01% HCOOH).

reactant | 3-Iodo-2-(3-methoxy-6-pyridin-4-yl-pyridazin-4-yl)-1H-indole | 430 mg | IC1=C(NC2=CC=CC=C12)C1=C(N=NC(=C1)C1=CC=NC=C1)OC | C18H13IN4O
reactant | tributyl(vinyl)tin | 490 mg | C(CCC)[Sn](C=C)(CCCC)CCCC
reactant | potassium fluoride | 15 ml | [F-].[K+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
catalyst | tetraethylammonium-chloride | 165 mg | [Cl-].C(C)[N+](CC)(CC)CC
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | bis(triphenylphosphine)palladium(II) chloride | 35 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-(3-Methoxy-6-pyridin-4-yl-pyridazin-4-yl)-3-vinyl-1H-indole | COC=1N=NC(=CC1C=1NC2=CC=CC=C2C1C=C)C1=CC=NC=C1 | C20H16N4O
